US04545811
N-(2-Difluoromethoxyphenyl-sulfonyl)-N'-[4-methoxy-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl]-urea
A mixture of 8.2 g of N-(2-difluoromethoxyphenylsulfonyl)-N'-(4-chloro-6-methoxy-1,3,5-triazin-2-yl)-urea, 60 ml of dioxane, 20 ml of 2,2,2-trifluoroethanol and 5.5 g of potassium carbonate is stirred at 55°-60° for 12 hours and then taken up in 300 ml of water and filtered over active charcoal. After the mixture has been acidified with 2 N hydrochloric acid, the product precipitates and is separated off by filtration. Yield: 7.7 g of N-(2-difluoromethoxyphenyl-sulfonyl)-N'-[4-methoxy-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl]-urea of melting point 155°-157°.

reactant | N-(2-difluoromethoxyphenylsulfonyl)-N'-(4-chloro-6-methoxy-1,3,5-triazin-2-yl)-urea | 8.2 g | FC(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)Cl)OC)F | C12H10ClF2N5O5S
reactant | dioxane | 60 ml | O1CCOCC1 | C4H8O2
reactant | 2,2,2-trifluoroethanol | 20 ml | FC(CO)(F)F | C2H3F3O
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 300 ml | O | H2O
product | N-(2-Difluoromethoxyphenyl-sulfonyl)-N'-[4-methoxy-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl]-urea | FC(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)OCC(F)(F)F)F | C14H12F5N5O6S
